US06420427B1
4-(Benzofuran-2-yl)benzoic acid ethyl ester
The compound prepared in Reference Example 1 (2.64 g), dichlorobis(triphenylphosphine)palladium (II) [PdCl2(PPh3)2] (0.635 g) and triethylamine (10 ml) were added to a solution of 4-iodobenzoic acid ethyl ester (5 g) in dimethylformamide (10 ml). The mixture was stirred at 80° C. for 6 hours. To the reaction mixture, 1N hydrochloric acid was added. The mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated. The precipitated crystals was washed with hexane/diethyl ether and dried to give the title compound (3.6 g) having the following physical data.

reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 4-iodobenzoic acid ethyl ester | 5 g | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.635 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(Benzofuran-2-yl)benzoic acid ethyl ester | 3.6 g | C(C)OC(C1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)=O | C17H14O3
